US05023336
A hydrogen chloride gas was introduced into a diethyl ether solution of an equimolar mixture of ethyl cyanoformate and ethanol at 0° C. or lower, and a precipitated crystal was filtered out and washed with diethyl ether to obtain ethyl ethoxycarbonylformimidate hydrochloride [H5C2O2CC(OC2H5)=NH.HCl]. 5.4 g of this hydrochloride, 40 ml of acetic acid, 5.0 g of phenacylamine hydrochloride (the same as used in Synthesis Example 2) and 4.85 g of anhydrous sodium acetate were mixed and reacted with stirring at 90° to 100° C. for 4 hours.

reactant | hydrogen chloride | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | ethyl cyanoformate | C(#N)C(=O)OCC | C4H5NO2
solvent | ethanol | C(C)O | C2H6O
product | ethyl ethoxycarbonylformimidate hydrochloride | Cl.C(C)OC(=O)C(OCC)=N | InChI=1S/C6H11NO3.ClH/c1-3-9-5(7)6(8)10-4-2;/h7H,3-4H2,1-2H3;1H
